US07897762B2
By analogy to Example A24, 6-chloro-4-(methylamino)nicotinaldehyde (from Example A24), 4-fluoro-3-nitroaniline and sodium triacetoxy borohydride are combined in glacial acetic acid to give crude 2-chloro-5-((4-fluoro-3-nitrophenylamino)methyl)-N-methylpyridin-4-amine, which is reacted with diphosgene by the procedure of Example A75 to give 7-chloro-3-(4-fluoro-3-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one. Zn Dust is reacted with a suspension of 7-chloro-3-(4-fluoro-3-nitrophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one and NH4Cl in MeOH/THF (1:1) to provide 3-(3-amino-4-fluorophenyl)-7-chloro-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one. By analogy to Example A25, 4-methoxybenzylamine and 3-(3-amino-4-fluorophenyl)-7-chloro-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one are combined and heated to 180° C. to provide 7-(4-methoxybenzylamino)-3-(3-amino-4-fluorophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one, which is further reacted with trifluoroacetic acid to provide 7-amino-3-(3-amino-4-fluorophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one.

reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | 3-(3-amino-4-fluorophenyl)-7-chloro-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | NC=1C=C(C=CC1F)N1C(N(C2=C(C1)C=NC(=C2)Cl)C)=O | C14H12ClFN4O
product | 7-(4-methoxybenzylamino)-3-(3-amino-4-fluorophenyl)-1-methyl-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | COC1=CC=C(CNC2=CC=3N(C(N(CC3C=N2)C2=CC(=C(C=C2)F)N)=O)C)C=C1 | C22H22FN5O2
